US06140332
Step 30.3: 4-Chloro-6-(4-ethoxycarbonyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidine
Analogously to Step 8.3,1.45 g of 6-(4-ethoxycarbonyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ol in 15 ml of phosphorus oxychloride are heated under a protective gas for 2 hours and worked up, yielding the title compound; m.p.: 250° C. (decomp.): TLC-Rf =0.63 (ethyl acetate/hexane [1:1]); FAB-MS: (M+H)+ =302.

reactant | 6-(4-ethoxycarbonyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ol | 1.45 g | C(C)OC(=O)C1=CC=C(C=C1)C1=CC2=C(N=CN=C2O)N1 | C15H13N3O3
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-(4-ethoxycarbonyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)C(=O)OCC | C15H12ClN3O2
